US04496567
A mixture of 5-(3-pyridylmethyl)-2-methylthio-4-pyrimidone (1.0 g),2-(benzylthio)ethylamine (1.06 g) and dry pyridine (30 ml) was heated under reflux for 40 hours and evaporated to dryness. Water was added to the residue and the mixture was extracted with chloroform (discarded). The aqueous phase was adjusted to pH 7 and was extracted with chloroform. This extract was evaporated to dryness and the residue was recrystallised from ethanol to give 2-[2-benzylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone m.p. 145°-148°.

reactant | 5-(3-pyridylmethyl)-2-methylthio-4-pyrimidone | 1.0 g | N1=CC(=CC=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
reactant | 2-(benzylthio)ethylamine | 1.06 g | C(C1=CC=CC=C1)SCCN | C9H13NS
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 5-(3-pyridylmethyl)-4-pyrimidone | N1=CC(=CC=C1)CC=1C(NC=NC1)=O | C10H9N3O
